US07323455B2
2-Fluoro-5-(5-methyl-2-oxo-5-thien-2-yl-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)benzonitrile
Prepared from 7-bromo-5-methyl-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one and 5-bromo-2-fluorobenzonitrile generally according to the coupling procedure described in examples 82 and 1. 1H-NMR (DMSO-d6) δ 10.14 (s, 1H), 8.27 (dd, J=5.6, 2.4 Hz, 1H), 8.06 (m, 1H), 7.68 (dd, J=8.8, 2.4 Hz, 1H), 7.63 (d, J=2.0 Hz, 1H), 7.60 (t, J=9.3 Hz, 1H), 7.55 (dd, J=5.4, 1.5 Hz, 1H), 7.27 (d, J=8.8 Hz, 1H), 6.98 (m, 1H), 6.89 (dd, J=3.9, 1.5 Hz, 1H), 4.16 (d, J=15.6 Hz, 1H), 4.05 (d, J=15.6 Hz, 1H), 2.10 (s, 3H); MS (ES) m/z 379 (M+H)+.

reactant | 7-bromo-5-methyl-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | BrC=1C=CC2=C(C(OCC(N2)=O)(C=2SC=CC2)C)C1 | C14H12BrNO2S
reactant | 5-bromo-2-fluorobenzonitrile | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
product | 2-Fluoro-5-(5-methyl-2-oxo-5-thien-2-yl-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)benzonitrile | FC1=C(C#N)C=C(C=C1)C=1C=CC2=C(C(OCC(N2)=O)(C=2SC=CC2)C)C1 | C21H15FN2O2S
